US07592373B2
4.19.a. tert-butyl [3-chloro-4-(2-diethylaminoethoxy)phenyl]carbamate
Prepared analogously to Example 3.1.c. starting from 3.00 g (12.4 mmol) of 3-chloro-4-(2-diethylaminoethoxy)phenylamine and 2.97 g (13.6 mmol) of di-tert-butylpyrocarbonate in dichloromethane. Yield: 2.85 g (67% of theory); C17H27ClN2O3 (M=342.86); calc.: molecular ion peak (M+H)+: 343/345; found: molecular ion peak (M+H)+: 343/345.

reactant | 3-chloro-4-(2-diethylaminoethoxy)phenylamine | 12.4 mmol, 3.00 g | ClC=1C=C(C=CC1OCCN(CC)CC)N | C12H19ClN2O
reactant | di-tert-butylpyrocarbonate | 13.6 mmol, 2.97 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | ClCCl | CH2Cl2
product | tert-butyl [3-chloro-4-(2-diethylaminoethoxy)phenyl]carbamate | ClC=1C=C(C=CC1OCCN(CC)CC)NC(OC(C)(C)C)=O | C17H27ClN2O3
